US05011927
Preparation of 2-cyclohexylamino-4-fluoro-6-methoxypyrimidine (Variant B)
10.1 g (0.102 mol) of cyclohexylamine were added at 0°-to 2° C. to a mixture of 7.3 g (0.05 mol) of 2,4-difluoro-6-methoxypyrimidine in 50 ml of methyl t.-butyl ether within 15 minutes. After 1 hour at 0° C. and 3 hours at 25° C., the resulting precipitate was filtered off, and the filtrate was washed with water, dried over magnesium sulfate and concentrated. 8.3 g (73.8% of theory) of the title compound were isolated as an oil (nD23 =1.5211) after chromatography of the residue obtained in this way.

reactant | cyclohexylamine | 0.102 mol, 10.1 g | C1(CCCCC1)N | C6H13N
reactant | 2,4-difluoro-6-methoxypyrimidine | 0.05 mol, 7.3 g | FC1=NC(=CC(=N1)F)OC | C5H4F2N2O
reactant | butyl ether | C(CCC)OCCCC | C8H18O
product | 2-cyclohexylamino-4-fluoro-6-methoxypyrimidine | C1(CCCCC1)NC1=NC(=CC(=N1)F)OC | C11H16FN3O
